US04659716
3-[2-(3-Fluorophenyl)ethyl]-2-pyridine-carbonitrile
A solution of 3-[2-(3-fluorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide (36.4 g, 0.121 mole) in 123 mL (202.3 g, 1.32 mole) of phosphorous oxychloride is heated at 110° C. for 3.5 hours and stirred at ambient temperature an additional 15 hours. The reaction is quenched with ice and water and the pH of the solution is brought to 8 by the addition of a saturated aqueous solution of potassium carbonate. The product is extracted into ethyl acetate and the solution is concentrated to a residue. Following purification by silica gel chromatography and trituration with pentane, 16.2 g (0.072 mole) of product is obtained in 60% yield.

reactant | 3-[2-(3-fluorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | 0.121 mole, 36.4 g | FC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H21FN2O
reactant | phosphorous oxychloride | 1.32 mole, 123 mL, 202.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[2-(3-Fluorophenyl)ethyl]-2-pyridine-carbonitrile | 0.072 mole, 16.2 g, 60% yield | FC=1C=C(C=CC1)CCC=1C(=NC=CC1)C#N | C14H11FN2
